US07700634B2
To a solution of 5-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)thiazole-2-carboxylic acid methyl ester (418 mg, 1.09 mmol) in methanol (10 ml) and tetrahydrofuran (10 ml) was added sodium borohydride (83 mg, 2.18 mmol) portionwise over 2 minutes. The reaction was stirred for a further 1 h and then quenched with aqueous hydrochloric acid (1M; 10 ml). The mixture was poured into a separating funnel, diluted with dichloromethane (50 ml) and washed with water (20 ml). The combined organic layers were dried, filtered and the solvent removed in vacuo to leave a yellow oil. The oil was purified by flash column chromatography using 50-100% (v/v) diethyl ether in heptane to give [5-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)thiazol-2-yl]-methanol (308 mg, 0.86 mmol) as an off-white foam.

reactant | 5-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)thiazole-2-carboxylic acid methyl ester | 1.09 mmol, 418 mg | COC(=O)C=1SC(=CN1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C21H24N2O3S
reactant | sodium borohydride | 2.18 mmol, 83 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [5-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)thiazol-2-yl]-methanol | 0.86 mmol, 308 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=CN=C(S1)CO | C20H24N2O2S
